US08664210B2
Iodoethane (1.60 g) in dry tert-butanol (150 ml) was added dropwise under N2, over 6 h to a vigorously stirred solution heated to reflux, of testosterone (3.00 g) and potassium tert-butoxide (1.75 g) in dry tert-butanol (100 ml). The mixture was refluxed for further 3 h. After cooling to RT, the mixture was quenched by addition of a saturated aqueous NH4Cl solution (170 ml). After stirring for 10 minutes, tert-butanol was evaporated and the mixture was extracted with toluene. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated to dryness. The mixture was purified by flash chromatography (SiO2, n-hexane/EtOAc 70/30) to give 17β-hydroxy-4-ethylandrost-4-ene-3-one (1.68 g, 51%).

reactant | Iodoethane | 1.60 g | ICC | C2H5I
reactant | testosterone | 3.00 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=CC(=O)CC[C@]34C | C19H28O2
reactant | potassium tert-butoxide | 1.75 g | CC(C)([O-])C.[K+]
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 17β-hydroxy-4-ethylandrost-4-ene-3-one | 1.68 g, 51% | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)CC | C21H32O2
